US20010046993A1
A. N-[3-(4-Benzyl-1-piperazinyl)propyl]-3-chloro-1-propanesulfonamide
To a stirred solution of 3-(4-benzyl-1-piperazinyl)propylamine (2.01 g/8.61 mmol) in tetrahydrofuran (15 ml) were added 2 N NaOH (5.6 ml/ 11.2 mmol) and 3-chloropropanesulfonylchloride (2.00 g/11.3 mmol), and the mixture was stirred for 1 day. The reaction mixture was quenched with water (50 ml) and the whole was extracted with ethyl acetate (50 ml). The extract was washed with brine (50 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (NH2 gel/dichloromethane) to give a colorless oil.

reactant | 3-(4-benzyl-1-piperazinyl)propylamine | 8.61 mmol, 2.01 g | C(C1=CC=CC=C1)N1CCN(CC1)CCCN | C14H23N3
reactant | NaOH | 11.2 mmol, 2 N, 5.6 ml | [OH-].[Na+]
reactant | 3-chloropropanesulfonylchloride | 11.3 mmol, 2.00 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-[3-(4-Benzyl-1-piperazinyl)propyl]-3-chloro-1-propanesulfonamide | C(C1=CC=CC=C1)N1CCN(CC1)CCCNS(=O)(=O)CCCCl | C17H28ClN3O2S
